US05349067
19.07 g (0.1 mol) of tosyl chloride and 15.82 g (0.2 mol) of pyridine were dissolved in 60 g of acetone, and, after cooling to 5° C., there was added 10.81 g (0.1 mol) of benzyl alcohol. While suppressing excessive elevation of the temperature, reaction was allowed for 5 hours. After the completion of the reaction, the mixture was concentrated and the precipitated white solid was washed with ether and dried to give N-benzylpyridinium tosylate. Yield: 80%.

reactant | tosyl chloride | 0.1 mol, 19.07 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | pyridine | 0.2 mol, 15.82 g | N1=CC=CC=C1 | C5H5N
reactant | benzyl alcohol | 0.1 mol, 10.81 g | C(C1=CC=CC=C1)O | C7H8O
solvent | acetone | 60 g | CC(=O)C | C3H6O
product | N-benzylpyridinium tosylate | Yield: 80% | S(=O)(=O)([O-])C1=CC=C(C)C=C1.C(C1=CC=CC=C1)[N+]1=CC=CC=C1 | InChI=1S/C12H12N.C7H8O3S/c1-3-7-12(8-4-1)11-13-9-5-2-6-10-13;1-6-2-4-7(5-3-6)11(8,9)10/h1-10H,11H2;2-5H,1H3,(H,8,9,10)/q+1;/p-1
